US09193935B2
5-(4-(3-Isopropylphenyl)pent-1-enyl)benzo[d][1,3]dioxole
A solution of (benzo[d][1,3]dioxol-5-ylmethyl)triphenylphosphonium bromide (4.77 g, 10.0 mmol, 1.0 equiv.) in THF (20 mL), was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 6.3 mL, 10.0 mmol, 1.0 equiv.) at 0° C., the dark red suspension was stirred at 0° C. for 10 min. 3-(3-Isopropylphenyl)butanal (1.90 g, 10.0 mmol, 1.0 equiv.) in THF (10 mL) was added, and the mixture was stirred at 0° C.→25° C. for 16 h. After addition of H2O at 25° C., the aqueous layer was extracted with hexanes and MTBE, the combined organic phases were dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (hexanes/EtOAc 4:1) to yield 2.35 g (75%) of the title compound as a yellow oil.

reactant | (benzo[d][1,3]dioxol-5-ylmethyl)triphenylphosphonium bromide | 10.0 mmol, 4.77 g, 1.0 equiv. | [Br-].O1COC2=C1C=CC(=C2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | n-BuLi | 10.0 mmol, 1.6 M, 6.3 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(3-Isopropylphenyl)butanal | 10.0 mmol, 1.90 g, 1.0 equiv. | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
reactant | H2O | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(4-(3-Isopropylphenyl)pent-1-enyl)benzo[d][1,3]dioxole | 2.35 g, 75% | C(C)(C)C=1C=C(C=CC1)C(CC=CC1=CC2=C(OCO2)C=C1)C | C21H24O2
